US07582636B2
6-Methyl-quinoxaline:
A solution of 4-methyl-1,2-phenylenediamine (5.0 g, 41 mmol) in methanol (250 mL) was treated with a solution of 40% aqueous glyoxal and stirred for 16 h. The solvent was evaporated and the residue was distilled under vacuum (2 mm Hg, 85-88° C.) to leave a colorless oil (1.5 g, 25%). LC/MS (Method A): r.t.=1.02 min., purity=99.5%.

reactant | 4-methyl-1,2-phenylenediamine | 41 mmol, 5.0 g | CC1=CC(=C(C=C1)N)N | C7H10N2
reactant | glyoxal | C(=O)C=O | C2H2O2
solvent | methanol | 250 mL | CO | CH4O
product | 6-Methyl-quinoxaline | 1.5 g, 25% | CC=1C=C2N=CC=NC2=CC1 | C9H8N2
